US03931308
The use of the L-ACL transition metal complex as neutralizing agent is shown in this example. L-ACL. HCl, 165 g (1 mol) was heated in an autoclave at 141°C. with 2 mols of 4N hydrochloric acid (500 ml. ). After 15 minutes, 91 percent of L-ACL. HCl had been converted to L-Lysine-2. HCl. The reaction mixture was subjected to distillation in order to eliminate excess HCl. The residue, containing 199 g (0.91 mol) L-Lysine HCl and 14.8 g (0.09 mol) L-ACL. HCl in about 330 ml. water, was mixed with 1000 ml. of a deep blue methanol solution of 156 g (0.303 mol) (L-ACL)3NiCl2 of optical purity 95 percent. The color changed to pale green and the temperature of the mixture rose spontaneously to about 40°C. After cooling to room temperature and standing for about 15 minutes, the mixture was filtered and the crystals of L-Lysine-HCl. 2H2O were washed with a little methanol and dried at 120°C. The resulting L-Lysine HCl weighed 126 g (0.69 mol). This represents 76 percent recovery of the L-Lysine produced in the hydrolysis. The combined liquor was subjected to spray-drying. The dry residue which contained 2 to 5 percent water was treated for 30 minutes with 560 ml. of refluxing methanol. After cooling to room temperature, the mixture was filtered and the crystals were washed with a little methanol and dried at 120°C. The dried crystals weighed 189.3 g and were composed of 151 g (0.92 mol) L-ACL. HCl of 100 percent optical purity and 38.3 g (0.21 mol) L-Lysine . HCl These crystals could be recycled to the hydrolysis reactor. The mother liquor contained 13.1 g (0.08 mol) L-ACL. HCl of low optical purity, 39 g (0.302 mol) NiCl2 and small amounts of L-Lysine. HCl. This solution could be recycled to form fresh (D,L-ACL)3NiCl 2 which would then be resolved to (L-ACL)3NiCl2 and recycled.

reactant | HCl | Cl | ClH
reactant | hydrochloric acid | 2 mols, 4N, 500 ml | Cl | ClH
reactant | L-Lysine HCl | 0.91 mol, 199 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | L-Lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
